US09382265B2
(d) 4-((3S,3aS)-3-((1,3-dioxo-isoindolin-2-yl)methyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-yl)-3-oxopiperazin-1-carboxylic acid benzyl ester
Using compound 4-((3R,3 aS)-3-((methylsulfonyloxy)methyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-yl)-3-oxopiperazin-1-carboxylic acid benzyl ester (0.916 g, 1.725 mmol), and phthalimide potassium (0.479 g, 2.558 mmol) as starting materials, preparation following the method as described in Example 1 (d) afforded white solid 0.794 g, yield: 79.1%.

reactant | 4-((3R,3 aS)-3-((methylsulfonyloxy)methyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-yl)-3-oxopiperazin-1-carboxylic acid benzyl ester | 1.725 mmol, 0.916 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)C=1C=CC2=C(OC[C@@H]3N2C(O[C@H]3COS(=O)(=O)C)=O)C1)=O | C24H25N3O9S
reactant | phthalimide potassium | 2.558 mmol, 0.479 g | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
product | 4-((3S,3aS)-3-((1,3-dioxo-isoindolin-2-yl)methyl)-1-oxo-1,3,3a,4-tetrahydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-7-yl)-3-oxopiperazin-1-carboxylic acid benzyl ester | 0.794 g, yield: 79.1% | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)C=1C=CC2=C(OC[C@@H]3N2C(O[C@H]3CN3C(C2=CC=CC=C2C3=O)=O)=O)C1)=O | C31H26N4O8
